US06221902B1
4-[4′-(2-Benzyl-benzo[b]thiophen-3-yl)-3-bromo-biphenyl-4-yloxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared from 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3-bromo-biphenyl-4-ol and 4-chlorosulfonyl-2-hydroxy-benzoic acid, in substantially the same manner, as described in Example 1 step g, and was obtained as an off-white solid, mp 117-119° C.; MS m/e 669 (M-H)+;

reactant | 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3-bromo-biphenyl-4-ol | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C=C2)O)Br | C27H19BrOS
reactant | 4-chlorosulfonyl-2-hydroxy-benzoic acid | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4′-(2-Benzyl-benzo[b]thiophen-3-yl)-3-bromo-biphenyl-4-yloxysulfonyl]-2-hydroxy-benzoic acid | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C=C2)OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)Br | C34H23BrO6S2
